US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-1-(3-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
To a solution (3 mL) of 6-methyl-1-(3-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (120 mg, 0.50 mmol) in tetrahydrofuran were added oxalyl dichloride (130 mg, 1.0 mmol) and N,N-dimethylformamide (1 drop), and the mixture was stirred at room temperature for 1 hr. The mixture was concentrated under reduced pressure, and the solvent was evaporated. N,N-Dimethylformamide (3.0 mL) and a solution (2.0 mL) of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (130 mg, 0.40 mmol) in N,N-dimethylformamide were successively added, and the mixture was stirred at room temperature for 5 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (150 mg, 69%) as a brown solid.

reactant | 6-methyl-1-(3-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.50 mmol, 3 mL, 120 mg | CC1=CC=C(C(N1C1=CC(=CC=C1)C)=O)C(=O)O | C14H13NO3
reactant | oxalyl dichloride | 1.0 mmol, 130 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.40 mmol, 2.0 mL, 130 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-Dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-1-(3-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 150 mg, 69% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC(=CC=C2)C)=O)F)C1 | C31H26FN5O4
